US04139621
A mixture of 1-(3,4,5-trichlorophenyl) piperazine (0.5 g) and acetic anhydride (0.4 ml) in ethanol (10 ml) was left to stand overnight at ambient temperature. The solvent was removed in vacuo and the residue was crystallised from ethyl acetate-light petroleum (b.p. 40°-60°) to give 1-acetyl-4-(3,4,5-trichlorophenyl) piperazine (0.43g, 76%), m.p. 133°-136°.

reactant | 1-(3,4,5-trichlorophenyl) piperazine | 0.5 g | ClC=1C=C(C=C(C1Cl)Cl)N1CCNCC1 | C10H11Cl3N2
reactant | acetic anhydride | 0.4 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-acetyl-4-(3,4,5-trichlorophenyl) piperazine | 0.43g, 76% | C(C)(=O)N1CCN(CC1)C1=CC(=C(C(=C1)Cl)Cl)Cl | C12H13Cl3N2O
